US08293762B2
10,10-Dimethyl-8,9,10,11-tetrahydro-3,8,11-triaza-benzo[a]fluoren-7-one
A mixture of N-benzhydrylidene-N′-isoquinolin-5-yl-hydrazine (154 mg, 0.48 mmol) and 5,5-dimethylpiperidine-2,4-dione (98 mg, 0.69 mmol), dissolved in acetic acid (2 mL) and water (8 drops), was submitted to microwaves for 40 minutes at 150° C. The mixture was treated with concentrated NaOH to pH 9 and was extracted three times with ethyl acetate. Purification by flash chromatography of the concentrated residue, with dichloromethane/methanol/acetic acid/water 30/2/0.5/0.2→30/4/1/0.5 as eluant, afforded a solid product, which was dissolved in methanol and treated with 1.25M HCl in methanol to pH 1. The solvent was removed under vacuum and the residue was treated with diethylether. The resulting solid was filtered, washed with diethylether, and dried under vacuum, affording 72 mg of the title compound as hydrochloric salt (28%).

reactant | N-benzhydrylidene-N′-isoquinolin-5-yl-hydrazine | 0.48 mmol, 154 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NNC1=C2C=CN=CC2=CC=C1 | C22H17N3
reactant | 5,5-dimethylpiperidine-2,4-dione | 0.69 mmol, 98 mg | CC1(C(CC(NC1)=O)=O)C | C7H11NO2
reactant | NaOH | [OH-].[Na+]
reactant | HCl | 1.25M | Cl | ClH
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
catalyst | water | 8 drops | O | H2O
solvent | methanol | CO | CH4O
product | 10,10-Dimethyl-8,9,10,11-tetrahydro-3,8,11-triaza-benzo[a]fluoren-7-one | 72 mg | CC1(CNC(C=2C3=CC=C4C(=C3NC12)C=CN=C4)=O)C | C16H15N3O
